data/rdb19/train.csv
rxn,smiles,ea
898,[C:19]([C:20]([C:21]([H:22])[H:23])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:18][C:21]([C:20]([C:19]([H:28])([H:29])[H:30])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:22])[H:23],27.41752010968048
96,[C:12]([O:13][C:14](=[O:15])[C:16](=[C:17]([H:22])[H:23])[C:18]([H:24])([H:25])[H:26])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:7])[H:8].[H:6][C:16]([C:14]([O:13][C:12]([H:19])([H:20])[H:21])=[O:15])([C:17]([H:22])[H:23])[C:18]([H:24])([H:25])[H:26],39.304193221381865
1133,[C:14](=[C:15]([N:16]([C:17](=[O:18])[H:23])[H:22])[H:21])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:17]([N:16]([C:15](=[C:14]([H:19])[H:20])[H:21])[H:22])([O:18])[H:23])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],21.62683320825454
3480,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:17]([O:18][C:19](=[C:20][H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:25])([H:9])[H:10])([H:6])([H:7])[H:8],29.43796759194811
5126,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([O:30][C:31](=[O:32])[C:33]([H:38])([H:39])[H:40])[H:37])([H:34])([H:35])[H:36]>>[C:1]([C:2]([H:14])([H:15])[C:27]([C:26]([C:25]([H:34])([H:35])[H:36])([O:30][C:31](=[O:32])[C:33]([H:38])([H:39])[H:40])[H:37])([H:28])[H:29])([H:11])([H:12])[H:13].[C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16],55.89261157688452
1148,[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:14]([C:15](=[O:16])[C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[C:17]([C:15]([N:14]([H:19])[H:20])=[O:16])([C:18]([H:22])[H:23])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10],16.547032281698193
590,[C:18]([C:19]([C:20]([H:26])([H:27])[H:28])[C:21]#[N:22])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[C:19]([C:18]([H:23])([H:24])[H:25])([C:20]([H:26])([H:27])[H:28])[C:21]#[N:22])([H:8])([H:9])[H:10].[C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][H:17])[H:13],61.12643870373722
4210,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])([H:12])[C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],13.55026277829893
283,[C:4]([C:5]([C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:1]([O:2])[H:3]>>[O:1][O:2][C:7]([C:6]([H:3])([C:5]([C:4]([H:8])([H:9])[H:10])([H:11])[H:12])[H:13])([H:14])[H:15],23.90770636036177
4467,[C:13]([C:14]([C:15]([H:16])[H:17])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[C:15]([C:14]([C:13]([H:24])([H:25])[H:26])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:16])[H:17])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9],12.07383342256071
467,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:23])([H:24])[H:25])([c:11]1[c:12]([H:26])[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]1[H:30])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1]([O:2][O:3][H:22])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:23])([H:24])[H:25])[c:11]1[c:12]([H:26])[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]1[H:30])([H:20])[H:21])([H:17])([H:18])[H:19],21.803422002412844
